datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:19]([C:18](=[C:17]([H:21])[H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:9])([H:7])[H:8],58.2413
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:10])[H:11])([H:8])[H:9].[H:17]>>[C:0](=[C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])[H:9].[H:10][H:17],0.0
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[H:6]>>[C:0]([H:2])([H:3])[H:4].[O:1]([H:5])[H:6],79.9065
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[H:22]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:22])[H:12])([H:10])[H:11],5.77392
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:22])[H:23])[H:21])([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:19])[H:6].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:22])[H:23])[H:21])[H:20])[H:18])([H:16])[H:17],8.368
[H:10].[O:0]=[C:1]1[C:2]([H:6])=[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:9]>>[H:6][H:10].[O:0]=[C:1]1[C:2]=[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:9],33.8904
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:6])([H:7])[H:8],140.29
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([O:12])([H:13])([H:14])[H:15]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:12][C:11]([H:13])([H:14])[H:15],29.288
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22](=[C:23][C:24](=[C:25]([H:29])[H:30])[H:28])([H:26])[H:27]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:23](=[C:22]([H:26])[H:27])[C:24](=[C:25]([H:29])[H:30])[H:28],35.564
[C:0]([C:1]([O:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8][H:9]>>[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[H:7][O:8][H:9],0.0
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13][C:14]([O:15][H:20])([H:18])[H:19])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][C:13](=[C:12]([H:16])[H:17])[C:14]([O:15][H:20])([H:18])[H:19],85.772
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([c:27]1[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]1[H:41])[H:36])([H:33])([H:34])[H:35]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:26]([C:25]([H:33])([H:34])[H:35])([c:27]1[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]1[H:41])[H:36],63.1784
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])=[C:7]([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])[H:11],152.298
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[S:10]=[C:11][S:12][H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11](=[S:10])[S:12][H:13],39.748
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6][H:7]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][O:6][H:7],0.472792
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([C:8](=[C:9]([C:10]([C:11]([H:24])([H:25])[H:26])[H:23])[H:22])[H:21])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([H:19])([H:20])[C:8]([H:21])=[C:9]([H:22])[C:10]1([C:11]([H:24])([H:25])[H:26])[H:23])[H:12],97.9893
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0]([C:1](=[C:2][C:3]([H:7])([H:8])[H:9])[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14])([H:4])([H:5])[H:6],64.9357
[H:13].[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][H:13].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],-4.6024
